US04908394
A 500 ml Parr Shaker was charged with 75.6 g of (1-methoxy-2-propyl)-2,4-dinitrobenzoate, 200 ml methanol, and 1.5 g of a 5% palladium on carbon/50% water catalyst. The mixture was hydrogenated at 50 psi hydrogen pressure while maintaining the temperature below 50° C. Hydrogen uptake ceased after 4 hrs. The mixture was cooled, filtered, and the methanol removed under reduced pressure to give 56 g of (1-methoxy-2-propyl)-2,4-diaminobenzoate, a brown viscous liquid.

reactant | (1-methoxy-2-propyl)-2,4-dinitrobenzoate | 75.6 g | COCC(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C11H12N2O7
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | (1-methoxy-2-propyl)-2,4-diaminobenzoate | 56 g | COCC(C)OC(C1=C(C=C(C=C1)N)N)=O | C11H16N2O3
